US09388161B2
A mixture of (S)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1 (2H)-yl)ethanone (0.150 g, 0.528 mmol), 1-bromopropane (0.24 mL, 2.64 mmol), and potassium tert-butoxide (0.296 g, 2.64 mmol) in N,N-dimethylformamide (3.0 mL) was heated at 80° C. After 24 h, a second portion of 1-bromopropane (0.24 mL, 2.64 mmol) and potassium tert-butoxide (0.296 g, 2.64 mmol) was added and the mixture was heated at 100° C. for 24 h. The reaction mixture was cooled to rt and water was added. The mixture was extracted with dichloromethane and the combined organic phases were washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford a yellow oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 50-100% ethyl acetate-hexane) to afford (S)-1-(6-bromo-2-methyl-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.100 g, 58%) as a colorless oil. MS (ESI, pos. ion) m/z 326, 328 [M+H]+.

reactant | (S)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1 (2H)-yl)ethanone | 0.528 mmol, 0.150 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)O | C12H14BrNO2
reactant | 1-bromopropane | 2.64 mmol, 0.24 mL | BrCCC | C3H7Br
reactant | potassium tert-butoxide | 2.64 mmol, 0.296 g | CC(C)([O-])C.[K+]
reactant | 1-bromopropane | 2.64 mmol, 0.24 mL | BrCCC | C3H7Br
reactant | potassium tert-butoxide | 2.64 mmol, 0.296 g | CC(C)([O-])C.[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
product | (S)-1-(6-bromo-2-methyl-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.100 g, 58% | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OCCC | C15H20BrNO2
